US05214197
To a solution of 2,2-dimethyl-5-oxo-1,3-dioxolan-4-acetic acid (525 mg, 3.01 mmol) in THF (17.0 ml), carbonyldiimidazole (534 mg, 3.29 mmol) was added at 0° C. in an argon atmosphere and stirred for 30 minutes. To the resulting solution, magnesium bis(mono-ethyl malonate) (1.12 g, 3.91 mmol) was added at room temperature and stirred for 23 hours. After evaporating THF off under reduced pressure, a 25 % aqueous solution of citric acid (20 ml) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate=5:1) to give pure ethyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate (506 mg, 2.07 mmol). Yield, 69%.

reactant | 2,2-dimethyl-5-oxo-1,3-dioxolan-4-acetic acid | 3.01 mmol, 525 mg | CC1(OC(C(O1)CC(=O)O)=O)C | C7H10O5
reactant | carbonyldiimidazole | 3.29 mmol, 534 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium bis(mono-ethyl malonate) | 3.91 mmol, 1.12 g | C(C)C(C(=O)[O-])C(=O)[O-].C(C)C(C(=O)[O-])C(=O)[O-].[Mg+2].[Mg+2]
solvent | THF | 17.0 ml | C1CCOC1 | C4H8O
product | ethyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate | 2.07 mmol, 506 mg | CC1(OC(C(O1)CC(CC(=O)OCC)=O)=O)C | C11H16O6
